US06028195
1-[N-Ethyl-N-(4,5-dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(0.2 g, 0.5 mmole) was dissolved in dimethylformamide(15 ml), and thereto sodium hydride(12 mg, 0.5 mmole) was added slowly. The resulting mixture was stirred at room temperature for 15 min. After iodoethane(78 mg, 0.5 mmol) was added, the resulting mixture was stirred at room temperature for 16 hours. The resulting mixture was concentrated under the reduced pressure to remove the used solvent, extracted with methylene chloride, dryed, filtered and purified by column chromatography to obtain the titled compound.

reactant | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.5 mmole, 0.2 g | CC1=CC(=C(C=C1C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC | C22H29N3O4
reactant | sodium hydride | 0.5 mmole, 12 mg | [H-].[Na+]
reactant | iodoethane | 0.5 mmol, 78 mg | ICC | C2H5I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Ethyl-N-(4,5-dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 89% | C(C)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C1=C(C=C(C(=C1)C)C)OC | C24H33N3O4
